* ============================================================================
*  CAN FD bus simulation -- robotic arm 7-joint routing replica (real model)
*  8 transceivers: controller IN + 7 joints J1..J7, daisy-chained through
*  4 splitter boards. Dual-wire differential bus, 5 Mbps data phase.
*
*  Topology (all lengths in meters, edit in the PARAM block below):
*
*   IN --L1-- SB1 --L3-- SB2 --L5-- SB3 --L8-- SB4 --L10-- J6
*    |          |           |           |             |
*   L2         L4      +---(L6)---(L7)+    L9         L11
*    |          |       |          |      |           |
*   J1         J2      J3         J4     J5          J7
*                                                   (+terminator)
*
*   IN and J7 each terminated with 120R across the differential pair.
*   J1..J6 are unterminated stub ends (reflectors) -- the SI question.
* ============================================================================
*  Transceiver model: TI TCAN1042-Q1, see can_si_2motor_transceiver.cir and
*  README_can_si.md for details. Subckt pin order:
*      .SUBCKT TCAN1042 TXD STB RXD CANH CANL VCC GND
*  TXD polarity (verified): TXD LOW(0V)=dominant, HIGH=recessive.
*  RXD low = dominant, high = recessive (echoes TXD).
* ============================================================================

* ---- vendor model ----------------------------------------------------------
.lib "models/TCAN1042_q1_pspice.lib"
* absolute fallback if not found:
* .lib "E:\workspace2608\03\Ragtime_Firmwares\si_models\models\TCAN1042_q1_pspice.lib"

* ---- PSpice-port fixes for the TI TINA model (must stay, last def wins) ----
.SUBCKT MUX2X1_0  RXDINT1 RXDINT2 STB OUT VDD VSS
E_OUT OUT 0 VALUE {IF(V(STB)>(V(VDD)+V(VSS))*0.5, V(RXDINT2), V(RXDINT1))}
.ENDS MUX2X1_0
.SUBCKT LOGIC_IO_0  INP RXD VDD VSS
E_OUT RXD 0 VALUE {IF(V(INP)>(V(VDD)+V(VSS))*0.5, V(VDD), V(VSS))}
.ENDS LOGIC_IO_0
*  BUF_0 (TXD/STB hysteresis buffer): the TINA VSWITCH stage makes TXDint
*  drift up to VDD while TXD=0 in PSpice 17.4, falsely releasing the driver
*  ~110ns after a dominant edge that follows a long single-recessive bit.
*  Replace with a smooth tanh buffer (threshold=VCM, ~0.2V transition):
*  verified RXD fully decodes the 01010 worst-case sequence.
.SUBCKT BUF_0  TXD TXDINT STB STBINT VDD VSS
E_TXD TXDINT 0 VALUE {0.5*((V(VDD)+V(VSS))+(V(VDD)-V(VSS))*TANH(20*(V(TXD)-0.5*(V(VDD)+V(VSS)))))}
E_STB STBINT 0 VALUE {0.5*((V(VDD)+V(VSS))+(V(VDD)-V(VSS))*TANH(20*(V(STB)-0.5*(V(VDD)+V(VSS)))))}
.ENDS BUF_0

* ============================================================================
*  >>> EDIT YOUR ACTUAL WIRE LENGTHS HERE <<<
*  Values are METERS as bare numbers (NOTE: 1.0m in SPICE = 1 millimeter!)
*  Edit ONLY the numbers after "=" on the L1..L11 lines below.
* ============================================================================
.PARAM L1=0.5   ; IN  -> splitter board 1
.PARAM L2=0.3   ; SB1 -> joint 1        (stub)
.PARAM L3=0.5   ; SB1 -> splitter board 2
.PARAM L4=0.3   ; SB2 -> joint 2        (stub)
.PARAM L5=0.5   ; SB2 -> splitter board 3
.PARAM L6=0.3   ; SB3 -> joint 3        (stub)
.PARAM L7=0.3   ; SB3 -> joint 4        (stub)
.PARAM L8=0.5   ; SB3 -> splitter board 4
.PARAM L9=0.3   ; SB4 -> joint 5        (stub)
.PARAM L10=0.3  ; SB4 -> joint 6        (stub)
.PARAM L11=0.5  ; SB4 -> joint 7        (stub, terminated end)
.PARAM TDPM=4.27n ; per-meter delay 1/(0.78c), do not change
* ============================================================================

* ---- power and mode pins ---------------------------------------------------
VCC  VCCP  0 5
VSTB_IN  STB_IN  0 0          ; STB=0 => Normal mode (controller IN)
VSTB_J1  STB_J1  0 0          ; joints all normal mode
VSTB_J2  STB_J2  0 0
VSTB_J3  STB_J3  0 0
VSTB_J4  STB_J4  0 0
VSTB_J5  STB_J5  0 0
VSTB_J6  STB_J6  0 0
VSTB_J7  STB_J7  0 0

* ---- terminators: 120R across the pair at BOTH ends -------------------------
*  Modeled as 2x60R series with a common-mode midpoint (CM_*). RCM_* is a
*  20k anchor to ground: keeps the floating common mode defined for SPICE
*  while the differential termination stays 120R (60R impact is negligible).
*  If your real board uses 60R each line to GND instead, replace RCM_* + the
*  series pair with two 60R to GND.
RTH_IN  IN_H   CM_IN 60
RTL_IN  IN_L   CM_IN 60
RCM_IN  CM_IN  0    20k
RTH_J7  R_J7_H CM_J7 60
RTL_J7  R_J7_L CM_J7 60
RCM_J7  CM_J7  0    20k

* ---- probe resistors (1Meg, negligible) for .PRINT / Probe ------------------
*  PSpice 17.4: with lossless T elements .PRINT V(nodename) fails; device refs
*  work. Each node of interest gets a 1Meg resistor to ground.
RPR_INH  IN_H   0 1Meg
RPR_INL  IN_L   0 1Meg
RPR_J1H  R_J1_H 0 1Meg
RPR_J1L  R_J1_L 0 1Meg
RPR_J4H  R_J4_H 0 1Meg
RPR_J4L  R_J4_L 0 1Meg
RPR_J7H  R_J7_H 0 1Meg
RPR_J7L  R_J7_L 0 1Meg
RPR_RXD_IN RXD_IN 0 1Meg
RPR_RXD_J1 RXD_J1 0 1Meg
RPR_RXD_J2 RXD_J2 0 1Meg
RPR_RXD_J3 RXD_J3 0 1Meg
RPR_RXD_J4 RXD_J4 0 1Meg
RPR_RXD_J5 RXD_J5 0 1Meg
RPR_RXD_J6 RXD_J6 0 1Meg
RPR_RXD_J7 RXD_J7 0 1Meg

* ---- differential transmission lines (one per wire, Z0=60 single) ----------
*  trunk + splitter links
T1_H  IN_H   0 SB1_H  0 Z0=60 TD={L1*TDPM}
T1_L  IN_L   0 SB1_L  0 Z0=60 TD={L1*TDPM}
T3_H  SB1_H  0 SB2_H  0 Z0=60 TD={L3*TDPM}
T3_L  SB1_L  0 SB2_L  0 Z0=60 TD={L3*TDPM}
T5_H  SB2_H  0 SB3_H  0 Z0=60 TD={L5*TDPM}
T5_L  SB2_L  0 SB3_L  0 Z0=60 TD={L5*TDPM}
T8_H  SB3_H  0 SB4_H  0 Z0=60 TD={L8*TDPM}
T8_L  SB3_L  0 SB4_L  0 Z0=60 TD={L8*TDPM}
*  stubs to joints (unterminated ends, reflectors)
T2_H  SB1_H  0 R_J1_H 0 Z0=60 TD={L2*TDPM}
T2_L  SB1_L  0 R_J1_L 0 Z0=60 TD={L2*TDPM}
T4_H  SB2_H  0 R_J2_H 0 Z0=60 TD={L4*TDPM}
T4_L  SB2_L  0 R_J2_L 0 Z0=60 TD={L4*TDPM}
T6_H  SB3_H  0 R_J3_H 0 Z0=60 TD={L6*TDPM}
T6_L  SB3_L  0 R_J3_L 0 Z0=60 TD={L6*TDPM}
T7_H  SB3_H  0 R_J4_H 0 Z0=60 TD={L7*TDPM}
T7_L  SB3_L  0 R_J4_L 0 Z0=60 TD={L7*TDPM}
T9_H  SB4_H  0 R_J5_H 0 Z0=60 TD={L9*TDPM}
T9_L  SB4_L  0 R_J5_L 0 Z0=60 TD={L9*TDPM}
T10_H SB4_H  0 R_J6_H 0 Z0=60 TD={L10*TDPM}
T10_L SB4_L  0 R_J6_L 0 Z0=60 TD={L10*TDPM}
T11_H SB4_H  0 R_J7_H 0 Z0=60 TD={L11*TDPM}
T11_L SB4_L  0 R_J7_L 0 Z0=60 TD={L11*TDPM}

* ---- transceiver instances (pin order TXD STB RXD CANH CANL VCC GND) --------
X_IN D_TXD_IN STB_IN RXD_IN IN_H   IN_L   VCCP 0 TCAN1042
X_J1 D_TXD_J1 STB_J1 RXD_J1 R_J1_H R_J1_L VCCP 0 TCAN1042
X_J2 D_TXD_J2 STB_J2 RXD_J2 R_J2_H R_J2_L VCCP 0 TCAN1042
X_J3 D_TXD_J3 STB_J3 RXD_J3 R_J3_H R_J3_L VCCP 0 TCAN1042
X_J4 D_TXD_J4 STB_J4 RXD_J4 R_J4_H R_J4_L VCCP 0 TCAN1042
X_J5 D_TXD_J5 STB_J5 RXD_J5 R_J5_H R_J5_L VCCP 0 TCAN1042
X_J6 D_TXD_J6 STB_J6 RXD_J6 R_J6_H R_J6_L VCCP 0 TCAN1042
X_J7 D_TXD_J7 STB_J7 RXD_J7 R_J7_H R_J7_L VCCP 0 TCAN1042

* ---- stimulus, SCENARIO A (default): IN sends, all joints receive ----------
*  CAN FD data phase 5 Mbps, 10 bit seq 1101000110, bit=200ns, edge 15ns.
*  Long dominant run (815n..1400n) then a single recessive = worst discharge.
VTX_IN D_TXD_IN 0 PWL(
+ 0    5
+ 400n 5
+ 415n 0     ; bit2=0 dominant
+ 600n 0
+ 615n 5     ; bit3=1 recessive
+ 800n 5
+ 815n 0     ; bit4=0 dominant
+ 1200n 0
+ 1400n 0
+ 1415n 5    ; bit7=1  <-- single recessive after long dominant
+ 1800n 5
+ 1815n 0    ; bit9=0 dominant
+ 2.2u 5)
VTX_J1 D_TXD_J1 0 5     ; idle: TXD high = recessive
VTX_J2 D_TXD_J2 0 5
VTX_J3 D_TXD_J3 0 5
VTX_J4 D_TXD_J4 0 5
VTX_J5 D_TXD_J5 0 5
VTX_J6 D_TXD_J6 0 5
VTX_J7 D_TXD_J7 0 5

* ---- simulation control ----------------------------------------------------
.TRAN 0.1n 2.5u
.PROBE

* ---- receive-side verification ----------------------------------------------
*  PSpice has NO .MEAS/.MEASURE (ORPSIM-16056). Measure in Probe instead.
*  Differential at a node = V(RPR_xxH)-V(RPR_xxL) (probe resistors).
.PRINT TRAN V(RPR_INH) V(RPR_INL) V(RPR_J1H) V(RPR_J1L) V(RPR_J4H) V(RPR_J4L) V(RPR_J7H) V(RPR_J7L)
.PRINT TRAN V(RPR_RXD_IN) V(RPR_RXD_J1) V(RPR_RXD_J2) V(RPR_RXD_J3) V(RPR_RXD_J4) V(RPR_RXD_J5) V(RPR_RXD_J6) V(RPR_RXD_J7)
*  All RXD should reproduce the TXD bit sequence (0=dominant, 5=recessive).

* ============================================================================
*  SCENARIO B (alt): let joint 4 send, IN + other joints receive
*  - uncomment the 4 lines below, comment the VTX_IN PWL block above, and
*    change VTX_J4 to the PWL stimulus (copy the PWL from VTX_IN).
*  .PARAM SEND="J4"
*  VTX_IN D_TXD_IN 0 5
*  VTX_J4 D_TXD_J4 0 PWL(...)
* ============================================================================
.END